US04551460
A solution of 48.4 g of 1-[3-(2-methyl-1,3-dioxolan-2-yl)-propyl]-1H-imidazole in 615 ml of 1M hydrochloric acid was stirred overnight. The reaction mixture was concentrated to half volume under reduced pressure and the solution was made basic with sodium hydroxide and extracted with dichloromethane. The combined organic layers were dried over potassium carbonate and the residue obtained after concentration was distilled to yield 30.17 g (77%), bp 110°-121° C./0.1 min. A sample was further purified on silica gel thick layer plates eluting with 9% methanol-dichloromethane to give an analytical sample of 5-(1H-imidazol-1-yl)-2-pentanone.

reactant | 1-[3-(2-methyl-1,3-dioxolan-2-yl)-propyl]-1H-imidazole | 48.4 g | CC1(OCCO1)CCCN1C=NC=C1 | C10H16N2O2
solvent | hydrochloric acid | 1M, 615 ml | Cl | ClH
product | 5-(1H-imidazol-1-yl)-2-pentanone | N1(C=NC=C1)CCCC(C)=O | C8H12N2O
